US05663334
e) 4-(Fluorophenyl)-1-(methyl-4-piperidinyl)-5-(2-methysulfinyl-4-pyrimidinyl)imidazole
Potassium persulfate (3.2 g, 7.0 mmol) in water (75 mL) was added to a solution of 4-(fluorophenyl)-1-(methyl-4-piperidinyl)-5-(2-methylthio-4-pyrimidinyl)imidazole (2.7 g, 7.0 mmol) in glacial AcOH (150 mL). After stirring at ambient temperature for 72 h, the reaction mixture was neutralized by the portion-wise addition of concentrated aqueous NH4OH and extracted with CH2Cl2. The organic extract was washed with brine, dried (MgSO4) and concentrated. The residue was triturated with ethyl ether to afford the title compound as an off-white solid; yield 2.3 g (83%).

reactant | Potassium persulfate | 7.0 mmol, 3.2 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | 4-(fluorophenyl)-1-(methyl-4-piperidinyl)-5-(2-methylthio-4-pyrimidinyl)imidazole | 7.0 mmol, 2.7 g | FC1=C(C=CC=C1)C=1N=CN(C1C1=NC(=NC=C1)SC)C1CCN(CC1)C | C20H22FN5S
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 75 mL | O | H2O
solvent | AcOH | 150 mL | CC(=O)O | C2H4O2
product | 4-(Fluorophenyl)-1-(methyl-4-piperidinyl)-5-(2-methysulfinyl-4-pyrimidinyl)imidazole | FC1=C(C=CC=C1)C=1N=CN(C1C1=NC(=NC=C1)S(=O)C)C1CCN(CC1)C | C20H22FN5OS
